### PR TITLE
[Merged by Bors] - feat(RingTheory): adds lemmas/instances related to integral maps to a field and residue fields

### PR DESCRIPTION
**Pull request by BryceT233**
This PR adds some lemmas and instances related to integral maps to a field and residue fields.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by BryceT233** [comment]
I just noticed that `ResidueField.finrank_eq_length` can be expressed much more cleanly using #37126.

File: Mathlib/RingTheory/IntegralClosure/IsIntegralClosure/Basic.lean [hunk 1]
```diff
@@ -652,3 +652,10 @@ theorem roots_mem_integralClosure {f : R[X]} (hf : f.Monic) {a : S}
   ⟨f, hf, (eval₂_eq_eval_map _).trans <| (mem_roots <| (hf.map _).ne_zero).1 ha⟩
 
 end IsDomain
+
+theorem RingHom.ker_isMaximal_of_isIntegral (R k : Type*) [CommRing R] [Field k]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/IntegralClosure/IsIntegralClosure/Basic.lean]: Can you use some of the variable already in scope?

File: Mathlib/RingTheory/LocalRing/ResidueField/Instances.lean [hunk 2]
```diff
@@ -61,3 +64,22 @@ instance [p.IsPrime] [q.IsPrime] [Algebra.IsIntegral A B] :
     obtain ⟨x, rfl⟩ := Ideal.Quotient.mk_surjective x
     simp [RingHom.algebraMap_toAlgebra, ← IsScalarTower.algebraMap_apply]
   refine .extendScalars (Ideal.injective_algebraMap_quotient_residueField p)
+
+namespace IsLocalRing
+
+instance ResidueField.algebraOfIsIntegral {k : Type*} [IsLocalRing R] [Field k]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/LocalRing/ResidueField/Instances.lean]: Same question here. If you cannot, use a new `variable` line.

**Review by riccardobrasca — COMMENTED** [review]
!radar

**Comment by leanprover-radar** [comment]
Benchmarking b74c08fc9e3fb0ffa680a54c4559d9e1ad0a56fa against 921b8d39f71a5c813b526f38e4033417d40b4c3d ([preliminary results](https://radar.lean-lang.org/repos/mathlib4/commits/b74c08fc9e3fb0ffa680a54c4559d9e1ad0a56fa?reference=921b8d39f71a5c813b526f38e4033417d40b4c3d)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/IntegralClosure/IsIntegralClosure/Basic.lean (hunk 1 above)
Comment (BryceT233) [reply Mathlib/RingTheory/IntegralClosure/IsIntegralClosure/Basic.lean]: There is no variable to use in the default scope :) maybe I should move it to the same section with `Algebra.isField_of_isIntegral_of_isField` and rename it `Algebra.ker_algebraMap_isMaximal_of_isIntegral`
